US05026868
a) 2-Acetyl-2,3-dihydro-1H-indene-2-carbonitrile
Sodium (13.2 g) was dissolved in dry ethanol (220 ml). Dry diethyl ether (270 ml) was added. To the solution were simultaneously added α,α'-dibromo-o-xylene (85.2 g), dry ether (250 ml) and acetoacetonitrile (45.6 g) in dry ether (160 ml) over a period of one hour. (Acetoacetonitrile had been prepared by the method described in U.S. Pat. No. 4,152,336.) After the addition, the mixture was stirred for 1 hour at room temperature and then refluxed for 2 hours. The cooled reaction mixture wa poured into water. The ether layer was separated and the water layer was extracted once more with ether. The combined ether solutions were washed with water, dried (MgSO4) and evaporated. The yield of crude product was 73.8 g.

reactant | Sodium | 13.2 g | [Na] | Na
reactant | α,α'-dibromo-o-xylene | 85.2 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | acetoacetonitrile | 45.6 g | C(CC(=O)C)#N | C4H5NO
reactant | water | O | H2O
solvent | ethanol | 220 ml | C(C)O | C2H6O
solvent | ether | 160 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | diethyl ether | 270 ml | C(C)OCC | C4H10O
product | 2-Acetyl-2,3-dihydro-1H-indene-2-carbonitrile | C(C)(=O)C1(CC2=CC=CC=C2C1)C#N | C12H11NO
